US05861359
A stirred solution of 10.0 grams (0.049 mole) of 4-(4-methoxyphenyl)-2-methyl-imidazol-5-one in 50 mL of phosphorous oxychloride is heated at reflux for about three hours. After this time, the reaction mixture is concentrated under reduced pressure, yielding 5-chloro-4-(4-methoxyphenyl)-2-methylimidazole.

reactant | 4-(4-methoxyphenyl)-2-methyl-imidazol-5-one | 0.049 mole, 10.0 grams | COC1=CC=C(C=C1)C1=NC(=NC1=O)C | C11H10N2O2
reactant | phosphorous oxychloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-4-(4-methoxyphenyl)-2-methylimidazole | ClC1=C(N=C(N1)C)C1=CC=C(C=C1)OC | C11H11ClN2O
